US05371063
A mixture of 1-[2-chloro-4-(methylsulphonyloxy)phenyl]-3-cyclopropylpropan-1.3-dione (4.75 g) and triethyl orthoformate (4.5 g) in acetic anhydride was stirred and heated at reflux for 3 hours. The mixture was cooled and evaporated to dryness. Toluene was added and the mixture as re-evaporated to give 1-[2-chloro-4-(methylsulphonyloxy)phenyI]-3-cyclopropyl-2-ethoxymethylenepropan-1,3-dione (5.7 g) as a brown oil which was not further purified.

reactant | 1-[2-chloro-4-(methylsulphonyloxy)phenyl]-3-cyclopropylpropan-1.3-dione | 4.75 g | ClC1=C(C=CC(=C1)OS(=O)(=O)C)C(CC(=O)C1CC1)=O | C13H13ClO5S
reactant | triethyl orthoformate | 4.5 g | C(OCC)(OCC)OCC | C7H16O3
solvent | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 1-[2-chloro-4-(methylsulphonyloxy)phenyI]-3-cyclopropyl-2-ethoxymethylenepropan-1,3-dione | 5.7 g | ClC1=C(C=CC(=C1)OS(=O)(=O)C)C(C(C(=O)C1CC1)=COCC)=O | C16H17ClO6S
